US07465798B2
Intermediate 19: 1-Chloro-3-(2-chlorophenyl)propan-2-one
The procedure described above for the synthesis of 1-chloro-3-(3,4-dichlorophenyl)propan-2-one was followed, reacting 2-chlorobenzyl chloride (1.6 mL, 2.0 g, 12 mmol) with zinc dust (1.22 g, 18.6 mmol) in the presence of iodine (0.157 g, 0.620 mmol), then with chloroacetyl chloride (1.5 mL, 2.1 g, 19 mmol) in the presence of Pd(PPh3)4 (0.287 g, 0.248 mmol). Flash chromatography over silica gel (10% ethyl acetate in hexanes) gave product of sufficient purity to be used in the next step (0.556 g, 22% yield): 1H NMR (400 MHz, CDCl3) δ 4.03 (s, 2H) 4.19 (s, 2H) 7.19-7.29 (m, 3H) 7.38-7.42 (m, 1H).

reactant | 1-chloro-3-(3,4-dichlorophenyl)propan-2-one | ClCC(CC1=CC(=C(C=C1)Cl)Cl)=O | C9H7Cl3O
reactant | 2-chlorobenzyl chloride | 12 mmol, 1.6 mL, 2.0 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | iodine | 0.620 mmol, 0.157 g | II | I2
reactant | chloroacetyl chloride | 19 mmol, 1.5 mL, 2.1 g | ClCC(=O)Cl | C2H2Cl2O
catalyst | zinc | 18.6 mmol, 1.22 g | [Zn] | Zn
catalyst | Pd(PPh3)4 | 0.248 mmol, 0.287 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Chloro-3-(2-chlorophenyl)propan-2-one | 22% yield | ClCC(CC1=C(C=CC=C1)Cl)=O | C9H8Cl2O
